US06177419B1
6-(2-Hydroxy-3-methylphenyl)-6′-(2-hydroxy-4-methylphenyl)-2,2′-bipyridine was prepared from 6-bromo-6′-(2-hydroxy-4-methylphenyl)-2,2′-bipyridine and 2-hydroxy-3-methylphenylboronic acid in 84% yield using method F; δH [2H6]-DMSO 13.38,(1H, b), 8.41-8.22,(4H, m), 8.13,(1H, d), 8.09-8.01,(2H, m), 7.96,(1H, d), 7.28,(1H, d), 6.90,(1H, t), 6.80,(2H, m), 2.33,(3H, s), 2.26,(3H s); MS 369 (MH)+; HPLC retention time (system 1) 4.53 minutes.

reactant | 6-bromo-6′-(2-hydroxy-4-methylphenyl)-2,2′-bipyridine | BrC1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C=C(C=C1)C)O | C17H13BrN2O
reactant | 2-hydroxy-3-methylphenylboronic acid | OC1=C(C=CC=C1C)B(O)O | C7H9BO3
product | 6-(2-Hydroxy-3-methylphenyl)-6′-(2-hydroxy-4-methylphenyl)-2,2′-bipyridine | 84% yield | OC1=C(C=CC=C1C)C1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C=C(C=C1)C)O | C24H20N2O2
